US06107310
A stirred solution of ethyl (R)-5-(2,3-epoxypropoxy)-4-formylindole-2-carboxylate (1.95 g; prepared by the method described above) in dichloromethane (40 ml) was cooled to 0° C. 3-Chloroperoxybenzoic acid (85%; 1.75 g) was then added in one portion followed by a solution of trifluoroacetic acid (0.77 g) in dichloromethane (10 ml), in portions. The mixture was stirred at 0° C. for 10 minutes and then at ambient temperature for 1 hour. The reaction mixture was diluted with dichloromethane (300 ml), washed successively with saturated aqueous sodium bisulphite solution (100 ml), saturated aqueous sodium bicarbonate solution (3×150 ml), dried over sodium sulphate and the solvent evaporated. The solid residue was purified by flash chromatography on silica eluting with a 1:1 mixture of petroleum ether (b.p. 40-60° C.) and ethyl acetate to give ethyl (R)-5-(2,3-epoxypropoxy)-4-formyloxyindole-2-carboxylate (1.55 g) as a pale yellow crystalline solid; m.p. 123-125° C.

reactant | ethyl (R)-5-(2,3-epoxypropoxy)-4-formylindole-2-carboxylate | O1[C@@H](COC=2C(=C3C=C(NC3=CC2)C(=O)OCC)C=O)C1 | C15H15NO5
reactant | 3-Chloroperoxybenzoic acid | 1.75 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | trifluoroacetic acid | 0.77 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | ethyl (R)-5-(2,3-epoxypropoxy)-4-formyloxyindole-2-carboxylate | 1.55 g | O1[C@@H](COC=2C(=C3C=C(NC3=CC2)C(=O)OCC)OC=O)C1 | C15H15NO6
